US06794395B1
(30) 3-(Z)-(1-{4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl amino)-anilino}-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C11H19N3O2S
product | 3-(Z)-(1-{4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl amino)-anilino}-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1)C | C24H32N4O5S
